US07144884B2
3a, 1-[2-(4-Chlorophenylsulfanyl)phenyl]-3-methylpiperazine
2-(3-Methylpiperazin-1-yl)phenylamine (0.96 g, 5 mmol) was dissolved in 30 mL water containing sulfuric acid (0.28 mL, 5.2 mmol) and the solution was cooled to 0° C. and sodium nitrite (0.36 g, 5.2 mmol) was added. The reaction was stirred for 30 minutes before the pH of the reaction was adjusted to pH 7 with sodium acetate. The diazonium salt solution was then added dropwise to a solution of 4-chlorothiophenol in a suspension of copper (0.3 g, 5 mmol) in 2 M NaOH (4 mL). After addition, the reaction mixture was heated to 60° C. for 30 minutes before being allowed to cool to room temperature and ethyl acetate (10 mL) was added. The reaction mixture was filtered and the layers were separated. The aqueous layer was extracted with ethyl acetate (2×10 mL). The combined organic phases were dried (MgSO4) and volatile solvents evaporated in vacuo. The crude product was purified by flash chromatography using silica gel, eluting with ethyl acetate/methanol/ammonia 96:3:1. The pure product was isolated as a colourless oil. Yield (0.18 g, 11%) 1H NMR (CDCl3, 500 MHz) 1.12 (d, 3H); 2.6–2.72 (br m, 2H); 3.0–3.15 (m, 5H); 6.9 (m, 2H); 7.08 (d, 1H); 7.15 (m, 1H); 7.25–7.35 (m, 4H); MS (MH+) 319.1.

reactant | 2-(3-Methylpiperazin-1-yl)phenylamine | 5 mmol, 0.96 g | CC1CN(CCN1)C1=C(C=CC=C1)N | C11H17N3
reactant | sulfuric acid | 5.2 mmol, 0.28 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 5.2 mmol, 0.36 g | N(=O)[O-].[Na+]
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | 4-chlorothiophenol | ClC1=CC=C(C=C1)S | C6H5ClS
solvent | water | 30 mL | O | H2O
solvent | NaOH | 2 M, 4 mL | [OH-].[Na+]
catalyst | copper | 5 mmol, 0.3 g | [Cu] | Cu
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 1-[2-(4-Chlorophenylsulfanyl)phenyl]-3-methylpiperazine | ClC1=CC=C(C=C1)SC1=C(C=CC=C1)N1CC(NCC1)C | C17H19ClN2S
